US08003703B2
(i) Benzyl 2-bromo-4-(trifluoromethyl)phenyl ether
Benzyl bromide (21.4 ml) was added to a stirred mixture of 2-bromo-4-trifluoromethylphenol (46.4 g) and potassium carbonate (39 g) in DMF (200 ml). After 18 h, the mixture was partitioned between diethylether and water, the organic layer washed with water, 2M sodium hydroxide solution, water, dried and the solvent evaporated under reduced pressure. Yield 58.7 g

reactant | Benzyl bromide | 21.4 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-bromo-4-trifluoromethylphenol | 46.4 g | BrC1=C(C=CC(=C1)C(F)(F)F)O | C7H4BrF3O
reactant | potassium carbonate | 39 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | Benzyl 2-bromo-4-(trifluoromethyl)phenyl ether | BrC1=C(C=CC(=C1)C(F)(F)F)OCC1=CC=CC=C1 | C14H10BrF3O
